US05103023
5,6-Methylenedioxy-5',6'-methylenedioxy-2,2'-biphenyldicarboxamide (8 g) is refluxed in phosphorus oxychloride (70 ml) for 4 hours. The reaction mixture is cooled and then poured into ice water. The precipitated crystals are separated by filtration and dissolved in chloroform. The solution is washed with water, dried and distilled to remove the solvent to give 5,6-methylenedioxy-5,6'-methylenedioxy-2,2'-biphenyldicarbonitrile (6.5 g) as colorless crystal. M.p. 213°-215° C.

reactant | 5,6-Methylenedioxy-5',6'-methylenedioxy-2,2'-biphenyldicarboxamide | 8 g | C1OC2=CC=C(C(=C2O1)C=1C(=CC=C2C1OCO2)C(=O)N)C(=O)N | C16H12N2O6
solvent | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5,6-methylenedioxy-5,6'-methylenedioxy-2,2'-biphenyldicarbonitrile | 6.5 g | C1OC23CC=C(C(=C2O1)C=1C(=CC=CC1OCO3)C#N)C#N | C16H10N2O4
